* tb_ldo_trim -- output voltage across all 32 VTRIM codes.
*
* The ladder is five binary-weighted segments, each shortable by an NMOS switch: closing
* a switch removes its segment from the lower leg, so R2 falls and vout rises. Code 0 is
* the bottom of the range and code 31 the top, monotonic upward by construction.
*
* This is measured rather than assumed because rhigh carries a fixed contact term of
* about 160 ohm per device on top of its 1360 ohm/sq sheet. Binary-weighted SINGLE
* resistors are therefore not exactly binary -- the small segments are proportionally
* more contact than the large ones -- so the step size is expected to vary across the
* code range. How much is the question this answers.
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.include /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cap_mfringe.lib
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ
.include ../sim/netlist/ldo_capless.spice

Vin    vin     0 3.3
Vrefbg vref_bg 0 1.2
Vss    vss     0 0
Ibias  0       ibias DC 10u
Iload  vout    0 DC 1m
Vt0 vtrim0 0 0
Vt1 vtrim1 0 0
Vt2 vtrim2 0 0
Vt3 vtrim3 0 0
Vt4 vtrim4 0 0

.control
  alter Vt0 dc = 0
  alter Vt1 dc = 0
  alter Vt2 dc = 0
  alter Vt3 dc = 0
  alter Vt4 dc = 0
  op
  echo "CODE 00"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 0
  alter Vt2 dc = 0
  alter Vt3 dc = 0
  alter Vt4 dc = 0
  op
  echo "CODE 01"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 1.2
  alter Vt2 dc = 0
  alter Vt3 dc = 0
  alter Vt4 dc = 0
  op
  echo "CODE 02"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 1.2
  alter Vt2 dc = 0
  alter Vt3 dc = 0
  alter Vt4 dc = 0
  op
  echo "CODE 03"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 0
  alter Vt2 dc = 1.2
  alter Vt3 dc = 0
  alter Vt4 dc = 0
  op
  echo "CODE 04"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 0
  alter Vt2 dc = 1.2
  alter Vt3 dc = 0
  alter Vt4 dc = 0
  op
  echo "CODE 05"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 1.2
  alter Vt2 dc = 1.2
  alter Vt3 dc = 0
  alter Vt4 dc = 0
  op
  echo "CODE 06"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 1.2
  alter Vt2 dc = 1.2
  alter Vt3 dc = 0
  alter Vt4 dc = 0
  op
  echo "CODE 07"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 0
  alter Vt2 dc = 0
  alter Vt3 dc = 1.2
  alter Vt4 dc = 0
  op
  echo "CODE 08"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 0
  alter Vt2 dc = 0
  alter Vt3 dc = 1.2
  alter Vt4 dc = 0
  op
  echo "CODE 09"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 1.2
  alter Vt2 dc = 0
  alter Vt3 dc = 1.2
  alter Vt4 dc = 0
  op
  echo "CODE 10"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 1.2
  alter Vt2 dc = 0
  alter Vt3 dc = 1.2
  alter Vt4 dc = 0
  op
  echo "CODE 11"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 0
  alter Vt2 dc = 1.2
  alter Vt3 dc = 1.2
  alter Vt4 dc = 0
  op
  echo "CODE 12"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 0
  alter Vt2 dc = 1.2
  alter Vt3 dc = 1.2
  alter Vt4 dc = 0
  op
  echo "CODE 13"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 1.2
  alter Vt2 dc = 1.2
  alter Vt3 dc = 1.2
  alter Vt4 dc = 0
  op
  echo "CODE 14"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 1.2
  alter Vt2 dc = 1.2
  alter Vt3 dc = 1.2
  alter Vt4 dc = 0
  op
  echo "CODE 15"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 0
  alter Vt2 dc = 0
  alter Vt3 dc = 0
  alter Vt4 dc = 1.2
  op
  echo "CODE 16"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 0
  alter Vt2 dc = 0
  alter Vt3 dc = 0
  alter Vt4 dc = 1.2
  op
  echo "CODE 17"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 1.2
  alter Vt2 dc = 0
  alter Vt3 dc = 0
  alter Vt4 dc = 1.2
  op
  echo "CODE 18"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 1.2
  alter Vt2 dc = 0
  alter Vt3 dc = 0
  alter Vt4 dc = 1.2
  op
  echo "CODE 19"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 0
  alter Vt2 dc = 1.2
  alter Vt3 dc = 0
  alter Vt4 dc = 1.2
  op
  echo "CODE 20"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 0
  alter Vt2 dc = 1.2
  alter Vt3 dc = 0
  alter Vt4 dc = 1.2
  op
  echo "CODE 21"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 1.2
  alter Vt2 dc = 1.2
  alter Vt3 dc = 0
  alter Vt4 dc = 1.2
  op
  echo "CODE 22"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 1.2
  alter Vt2 dc = 1.2
  alter Vt3 dc = 0
  alter Vt4 dc = 1.2
  op
  echo "CODE 23"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 0
  alter Vt2 dc = 0
  alter Vt3 dc = 1.2
  alter Vt4 dc = 1.2
  op
  echo "CODE 24"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 0
  alter Vt2 dc = 0
  alter Vt3 dc = 1.2
  alter Vt4 dc = 1.2
  op
  echo "CODE 25"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 1.2
  alter Vt2 dc = 0
  alter Vt3 dc = 1.2
  alter Vt4 dc = 1.2
  op
  echo "CODE 26"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 1.2
  alter Vt2 dc = 0
  alter Vt3 dc = 1.2
  alter Vt4 dc = 1.2
  op
  echo "CODE 27"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 0
  alter Vt2 dc = 1.2
  alter Vt3 dc = 1.2
  alter Vt4 dc = 1.2
  op
  echo "CODE 28"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 0
  alter Vt2 dc = 1.2
  alter Vt3 dc = 1.2
  alter Vt4 dc = 1.2
  op
  echo "CODE 29"
  print v(vout)
  alter Vt0 dc = 0
  alter Vt1 dc = 1.2
  alter Vt2 dc = 1.2
  alter Vt3 dc = 1.2
  alter Vt4 dc = 1.2
  op
  echo "CODE 30"
  print v(vout)
  alter Vt0 dc = 1.2
  alter Vt1 dc = 1.2
  alter Vt2 dc = 1.2
  alter Vt3 dc = 1.2
  alter Vt4 dc = 1.2
  op
  echo "CODE 31"
  print v(vout)
.endc
.end
